US08084620B2
Step 2 A mixture of di-tert-butyl dicarbonate (667 mg, 3.05 mmol), tert-butyl 5-bromo-4-methylthiazol-2-ylcarbamate (814 mg, 2.78 mmol) and DMAP (339 mg, 2.78 mmol) in DCM (10 mL) was stirred at rt overnight. The mixture was concentrated and the residue was purified by column chromatography (eluting with hexane-EtOAc) to provide N,N-bis(tert-butyloxycarbonyl)-5-bromo-4-methylthiazol-2-ylamine. Mass spectrum m/z 393, 395 (M+H)+.

reactant | di-tert-butyl dicarbonate | 3.05 mmol, 667 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | tert-butyl 5-bromo-4-methylthiazol-2-ylcarbamate | 2.78 mmol, 814 mg | BrC1=C(N=C(S1)NC(OC(C)(C)C)=O)C | C9H13BrN2O2S
catalyst | DMAP | 2.78 mmol, 339 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N,N-bis(tert-butyloxycarbonyl)-5-bromo-4-methylthiazol-2-ylamine | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C=1SC(=C(N1)C)Br | C14H21BrN2O4S
